US04107307
8-Methyl-6-n-propyl-imidazo[1,5-d]-as-triazin-4(3H)-one
A 14.50 gm. portion of 3-[(5-methyl-2-n-propyl-4-imidazolyl)methylene]carbazic acid ethyl ester and 100 ml. of diphenyl ether are reacted as described in Example 70 giving the desired product, m.p. 129.5°-131.5° C.

reactant | 3-[(5-methyl-2-n-propyl-4-imidazolyl)methylene]carbazic acid ethyl ester | C(C)OC(NN=CC=1N=C(NC1C)CCC)=O | C11H18N4O2
reactant | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 8-Methyl-6-n-propyl-imidazo[1,5-d]-as-triazin-4(3H)-one | CC=1N=C(N2C(NN=CC21)=O)CCC | C9H12N4O
